US07288544B2
Synthesis of 4-(3,5-dichlorophenyl)-2-isobutylamino-6-methyl-N-(3-phenylpropyl)-5-pyrimidinecarboxamide
83.8 mg (0.203 mmol) of 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-N-(3-phenylpropyl)-5-pyrimidinecarboxamide was dissolved in 5 ml of dichloromethane. 70.2 mg (0.407 mmol) of mCPBA (m-chloroperbenzoic acid) was added thereto at 0° C. and stirred at the same temperature for 6 hours. 1 ml of saturated aqueous sodium bisulfite solution was added thereto at the same temperature and stirred for 30 minutes heating to room temperature. After the reaction mixture was diluted with dichloromethane, the organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The obtained residue was dissolved in 5 ml of toluene and excessive amounts of 74.2 mg (1.02 mmol) of isobutylamine was added at room temperature and stirred at 80° C. for 6 hours. After concentration under reduced pressure, the obtained residue was diluted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1 to 1/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-N-(3-phenylpropyl)-5-pyrimidinecarboxamide | 0.203 mmol, 83.8 mg | ClC=1C=C(C=CC1)C1=NC(=NC(=C1C(=O)NCCCC1=CC=CC=C1)C)SC | C22H22ClN3OS
reactant | mCPBA | 0.407 mmol, 70.2 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bisulfite | 1 ml | S([O-])(O)=O.[Na+]
reactant | isobutylamine | 1.02 mmol, 74.2 mg | C(C(C)C)N | C4H11N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(3,5-dichlorophenyl)-2-isobutylamino-6-methyl-N-(3-phenylpropyl)-5-pyrimidinecarboxamide | ClC=1C=C(C=C(C1)Cl)C1=NC(=NC(=C1C(=O)NCCCC1=CC=CC=C1)C)NCC(C)C | C25H28Cl2N4O
